US05710173
Reaction of 2-nitrothiophen-5-carboxaldehyde and 3-trifluoromethylbenzylsulfonylacetonitrile as in Example 1 gave (E)-3-(2-nitrothien-5-yl)-2-[3-(trifluoromethyl)benzylsulfonyl]acrylonitrile

reactant | 2-nitrothiophen-5-carboxaldehyde | [N+](=O)([O-])C=1SC(=CC1)C=O | C5H3NO3S
reactant | 3-trifluoromethylbenzylsulfonylacetonitrile | FC(C=1C=C(CS(=O)(=O)CC#N)C=CC1)(F)F | C10H8F3NO2S
product | (E)-3-(2-nitrothien-5-yl)-2-[3-(trifluoromethyl)benzylsulfonyl]acrylonitrile | [N+](=O)([O-])C=1SC(=CC1)/C=C(\C#N)/S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F | C15H9F3N2O4S2
